US06825170B2
(2E)-3-[4-(4H-1,2,4-Triazol-4-yl)phenyl]-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 4-(4H-1,2,4-triazol-4-yl)-benzaldehyde (prepared as described in WO 98/03476) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 200 (M+H)+.

reactant | 4-(4H-1,2,4-triazol-4-yl)-benzaldehyde | N=1N=CN(C1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-[4-(4H-1,2,4-Triazol-4-yl)phenyl]-2-propenal | N=1N=CN(C1)C1=CC=C(C=C1)/C=C/C=O | C11H9N3O
